US07696231B2
c) Preparation of N-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)-N-methyl-3-phenylpropanamide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3dione in acetic acid was added N-[4(hydrazinocarbonyl)phenyl]-N-methyl-3-phenylpropanamide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH and water and drying under vacuo at 60° C. overnight gave the title compound (226 mg, 56%) as an orange solid in 96.7% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | N-[4(hydrazinocarbonyl)phenyl]-N-methyl-3-phenylpropanamide | N(N)C(=O)C1=CC=C(C=C1)N(C(CCC1=CC=CC=C1)=O)C | C17H19N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)-N-methyl-3-phenylpropanamide | 226 mg, 56% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)N(C(CCC1=CC=CC=C1)=O)C | C25H21IN4O3
